2179-10-04 07:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Placed on propofol overnight for tachypnea, turned off for EEG this am
   Blood, urine, sputum cx sent
   Right femoral groin line placed at OSH removed
   Allergies:
   Quinolones
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2179-10-3**] 08:30 PM
   Lorazepam (Ativan) - [**2179-10-3**] 08:40 PM
   Heparin Sodium (Prophylaxis) - [**2179-10-4**] 03:00 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-10-4**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 89 (84 - 122) bpm
   BP: 120/47(65) {106/42(56) - 171/72(90)} mmHg
   RR: 22 (11 - 46) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
             Total In:
                                                                  1,096 mL
                                                                  1,656 mL
   PO:
             TF:
                                                                     46 mL
                                                                    180 mL
   IVF:
                                                                    730 mL
                                                                    881 mL
   Blood products:
   Total out:
                                                                    570 mL
                                                                    460 mL
   Urine:
                                                                    570 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    526 mL
                                                                  1,196 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 473 (473 - 475) mL
   PS : 0 cmH2O
   RR (Set): 14
   RR (Spontaneous): 41
   PEEP: 16 cmH2O
   FiO2: 40%
   PIP: 35 cmH2O
   SpO2: 100%
   ABG: 7.35/43/92.[**Numeric Identifier 1176**]/24/-1
   Ve: 11.2 L/min
   PaO2 / FiO2: 232
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL, 3->2mm bilat
   Head, Ears, Nose, Throat: Normocephalic, trach in place w/o surrounding
   erythema
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: bilat and symmetric)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Trace, Left: Trace, LLE with fasciotomies and VAC
   dressing in place w/o surrounding erythema
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, No(t) Oriented (to): , Movement: No spontaneous
   movement, No(t) Sedated, No(t) Paralyzed, Tone: Decreased, GCS 3 (no
   verbal output, no eye opening, no motor response), pupils 3->2mm bilat
   with concerved response, oculocephalics intact, no corneal reflex
   present, no blink to threat. breathing over vent. flaccid to all 4
   extremities. unable to assess sensation.
   Labs / Radiology
   398 K/uL
   8.8 g/dL
   179 mg/dL
   2.6 mg/dL
   24 mEq/L
   4.0 mEq/L
   75 mg/dL
   113 mEq/L
   148 mEq/L
   27.3 %
   14.7 K/uL
        [image002.jpg]
                             [**2179-10-3**]  04:45 PM
                             [**2179-10-3**]  09:01 PM
                             [**2179-10-4**]  01:45 AM
   WBC
   16.7
   14.7
   Hct
   29.7
   27.3
   Plt
   445
   398
   Cr
   2.8
   2.6
   TCO2
   25
   Glucose
   165
   179
   Other labs: PT / PTT / INR:15.4/33.0/1.4, ALT / AST:25/45, Alk Phos / T
   Bili:99/0.4, Differential-Neuts:82.0 %, Lymph:13.6 %, Mono:2.3 %,
   Eos:2.0 %, LDH:307 IU/L, Ca++:159.0, Mg++:2.3 mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
   70M with DM2, HTN and recent hospital stay with GAS cellulitis,
   multi-organ failure, ATN, VAP and persistent respiratory failure now
   presenting 2 days following cardiac arrest.
   Cardiac Arrest and anoxic brain injury: unclear duration of pulseless
   arrest so it is difficult to guage likely severity of anoxic brain
   injury.  However >48 hours after event, patient has GCS of 3 which
   would portend a very poor prognosis.  This far out from injury
   additional therapeutic hypothermia unlikely to be beneficial.  no
   evidence of coronary ischemia to cause the event.  The purported
   explaination of mucous plugging sounds plausible but we will need to
   get additional information from the healthcare staff who witnessed the
   event.
   - detailed daily neuro exams, hold sedation when able to enable neuro
   exams
   - neuro c/s
   - EEG done this am, await read
   Respiratory Failure: Currently oxygenating well but with dysynchronous
   breathing and breathing over the vent.  Will wean back to PSV according
   to prior vent settings.
   - trach care per procotol
   - VAP bundle
   - hold sedation as able
   - place A-line
   - PSV with 10/8 wean O2 by sats
   GAS cellulitis with fasciotomies: currently w/o significant erythema or
   warmth and completed extended antibiotic course at last hospital stay.
   - wound care consult for VAC dressing changes
   Leukocytosis: no clear source of infection with unremarkable CXR and
   only with yeast from [**Hospital3 **] Ucx.
   - pan culture
   - hold antibiotics until cultures result or develops infectious
   syndrome
   Hypertension: home dose metoprolol
   Acute on Chronic renal failure: prior Cr at discharge was 1.4, current
   elevation likely pre-renal +/- ischemic ATN from pulseless arrest. No
   evidence of obstruction and no peripheral eosinophilia or rash to
   suggest AIN.
   - urine lytes
   -hold free water in setting of possible cerebral edema
   Nutrition: Replete with Fiber (Full) - [**2179-10-3**] 09:42 PM 30 mL/hour
   Hypernatremia: calculate free water and replete as needed once cleared
   with neuro/re: risks of cerebral edema
   Diabetes mellitus: no anion gap or severe hyperglycemia
   - TF
   - NPH with insulin sliding scale
   Lines: PICC Line - [**2179-10-3**] 05:04 PM
   PPX: heparin, ranitidine, VAP ppx
   Communication: wife and son
 hopeful for family meeting [**10-5**] at 12:30
   if family can make it
   Code
 FULL
   Dispo - ICU

2179-10-05 06:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   EEG done yesterday
 no formal read yet
   Neuro felt pts presentation c/w hypoxic-ischemic encephalopathy and
   recommended a non con head CT. Head CT demonstrated edema. Neuro was
   called and suggested elevating HOB and starting mannitol.
   Allergies:
   Quinolones
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2179-10-5**] 01:44 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-10-5**] 06:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.1
C (97
   HR: 88 (80 - 113) bpm
   BP: 133/55(74) {113/47(64) - 175/92(101)} mmHg
   RR: 23 (20 - 46) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 76 Inch
             Total In:
                                                                  5,234 mL
                                                                  1,074 mL
   PO:
             TF:
                                                                    738 mL
                                                                    285 mL
   IVF:
                                                                  2,221 mL
                                                                    428 mL
   Blood products:
   Total out:
                                                                  2,420 mL
                                                                    485 mL
   Urine:
                                                                  2,420 mL
                                                                    485 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,814 mL
                                                                    589 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 118 (118 - 118) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 220
   PIP: 34 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.43/36/140/22/0
   Ve: 11.7 L/min
   PaO2 / FiO2: 350
   Physical Examination
   General Appearance: Overweight / Obese, dysynchronous breathing,
   nonresponsive
   Eyes / Conjunctiva: PERRL, 3->2mm bilat
   Head, Ears, Nose, Throat: Normocephalic, trach in place w/o surrounding
   erythema
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear: bilat and symmetric, decreased air movement
   throughout)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese, G-tube in
   place with dressing C/D/I
   Extremities: Right: Trace, Left: Trace, LLE with fasciotomies and VAC
   dressing in place w/ surrounding erythema
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, No(t) Oriented (to): , Movement: No spontaneous
   movement, No(t) Sedated, No(t) Paralyzed, Tone: Decreased, GCS 3 (no
   verbal output, no eye opening, no motor response), pupils 3->2mm bilat
   with concerved response, sluggish oculocephalics, no corneal reflex
   present, no blink to threat. breathing over vent. flaccid to all 4
   extremities. unable to assess sensation.
   Labs / Radiology
   321 K/uL
   7.9 g/dL
   142 mg/dL
   1.8 mg/dL
   22 mEq/L
   3.7 mEq/L
   65 mg/dL
   112 mEq/L
   143 mEq/L
   23.5 %
   8.4 K/uL
        [image002.jpg]
                             [**2179-10-3**]  04:45 PM
                             [**2179-10-3**]  09:01 PM
                             [**2179-10-4**]  01:45 AM
                             [**2179-10-4**]  10:58 AM
                             [**2179-10-4**]  11:04 AM
                             [**2179-10-4**]  06:13 PM
                             [**2179-10-4**]  11:04 PM
                             [**2179-10-5**]  03:20 AM
   WBC
   16.7
   14.7
   8.4
   Hct
   29.7
   27.3
   23.5
   Plt
   445
   398
   321
   Cr
   2.8
   2.6
   2.0
   1.8
   TCO2
   25
   24
   24
   25
   Glucose
   165
   179
   117
   142
   Other labs: PT / PTT / INR:15.4/33.0/1.4, ALT / AST:25/45, Alk Phos / T
   Bili:99/0.4, Differential-Neuts:82.0 %, Lymph:13.6 %, Mono:2.3 %,
   Eos:2.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.6 g/dL, LDH:307 IU/L,
   Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   70M with DM2, HTN and recent hospital stay with GAS cellulitis,
   multi-organ failure, ATN, VAP and persistent respiratory failure now
   presenting 2 days following cardiac arrest and likely persistent
   vegetative state.
   Cardiac Arrest and anoxic brain injury: unclear duration of pulseless
   arrest so it is difficult to gauge likely severity of anoxic brain
   injury.  However >48 hours after event, patient has GCS of 3 which
   would portend a very poor prognosis.  This far out from injury
   additional therapeutic hypothermia unlikely to be beneficial.  No
   evidence of coronary ischemia to cause the event.  The purported
   explaination of mucous plugging sounds plausible but we will need to
   get additional information from the healthcare staff who witnessed the
   event.
   - detailed daily neuro exams, hold sedation when able to enable neuro
   exams
   - neuro c/s
   - EEG done this am, await read
   Respiratory Failure: Currently oxygenating well but with dysynchronous
   breathing and breathing over the vent.  Will wean back to PSV according
   to prior vent settings.
   - trach care per procotol
   - VAP bundle
   - hold sedation as able
   - place A-line
   - PSV with 10/8 wean O2 by sats
   GAS cellulitis with fasciotomies: currently w/o significant erythema or
   warmth and completed extended antibiotic course at last hospital stay.
   - wound care consult for VAC dressing changes
   Leukocytosis: no clear source of infection with unremarkable CXR and
   only with yeast from [**Hospital3 **] Ucx.
   - pan culture
   - hold antibiotics until cultures result or develops infectious
   syndrome
   Hypertension: home dose metoprolol
   Acute on Chronic renal failure: prior Cr at discharge was 1.4, current
   elevation likely pre-renal +/- ischemic ATN from pulseless arrest. No
   evidence of obstruction and no peripheral eosinophilia or rash to
   suggest AIN.
   - urine lytes
   -hold free water in setting of possible cerebral edema
   Nutrition: Replete with Fiber (Full) - [**2179-10-3**] 09:42 PM 30 mL/hour
   Hypernatremia: calculate free water and replete as needed once cleared
   with neuro/re: risks of cerebral edema
   Diabetes mellitus: no anion gap or severe hyperglycemia
   - TF
   - NPH with insulin sliding scale
   Lines: PICC Line - [**2179-10-3**] 05:04 PM
   PPX: heparin, ranitidine, VAP ppx
   Communication: wife and son
 hopeful for family meeting [**10-5**] at 12:30
   if family can make it
   Code
 FULL
   Dispo - ICU
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2179-10-4**] 10:00 PM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2179-10-3**] 05:04 PM
   18 Gauge - [**2179-10-5**] 04:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2179-10-06 06:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Family meeting: DNR.  Will hold off on deciding to make CMO till
   Thursday
   [**Location (un) **] Organ Bank: Patient not a candidate for donation after
   cardiac death given age > 65 and commorbidities.  They would reconsider
   in the event of brain death, but suspected RCC would still likely
   disqualify.
   Started on Mannatol
   Allergies:
   Quinolones
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2179-10-5**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-10-6**] 05:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37
C (98.6
   HR: 75 (73 - 95) bpm
   BP: 116/44(59) {115/36(54) - 160/62(85)} mmHg
   RR: 30 (8 - 34) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 76 Inch
             Total In:
                                                                  3,455 mL
                                                                    585 mL
   PO:
             TF:
                                                                  1,458 mL
                                                                    298 mL
   IVF:
                                                                  1,148 mL
                                                                    238 mL
   Blood products:
   Total out:
                                                                  2,625 mL
                                                                    725 mL
   Urine:
                                                                  2,625 mL
                                                                    725 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    830 mL
                                                                   -140 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 641 (497 - 1,112) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 31
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: Vent Dependant
   PIP: 24 cmH2O
   SpO2: 98%
   ABG: ///23/
   Ve: 20 L/min
   Physical Examination
   General Appearance: Overweight / Obese, some dysynchronous breathing
   though better than yesterday, nonresponsive to voice or noxious
   stimuli.
   Eyes / Conjunctiva: PERRL, 3->2mm bilat, no clear consensual response,
   no dolls eye reflex.
   Head, Ears, Nose, Throat: Normocephalic, trach in place w/o surrounding
   erythema
   Cardiovascular: RRR, s1, s2 wnl, no m/r/g
   Peripheral Vascular: DP1+bil, radial 1+ bil
   Respiratory / Chest: mild rhonchi present bilaterally, cleared after
   suctioning, likely referred from airway. CTA more inferiorly.
   Abdominal: Soft, bowel sounds present, obese, G-tube in place with
   dressing C/D/I
   Extremities: Bil, upper 1+, and lower 2+ pitting edema,  with left leg
   fasciotomies and VAC dressing in place no surrounding erythema. Skin
   warm.
   Neurologic: Completely unresponsive, mildly sedated, not paralyzed. GCS
   3 (no verbal output, no eye opening, no motor response), pupils 3->2mm
   bilat, no oculcephalic reflex, no response to threat, no gag. No
   plantar response.
   Labs / Radiology
   319 K/uL
   7.9 g/dL
   134 mg/dL
   1.3
   23 mEq/L
   3.6
   50 mg/dL
   107
   137 mEq/L
   26
   8.4 K/uL
        [image002.jpg]
   Ca 7.7, Mg 2.2, Ph 3.2
   Serum Osms: 320 (on mannitol)
   Co-ags: 13.8/28.3/1.2
                             [**2179-10-3**]  04:45 PM
                             [**2179-10-3**]  09:01 PM
                             [**2179-10-4**]  01:45 AM
                             [**2179-10-4**]  10:58 AM
                             [**2179-10-4**]  11:04 AM
                             [**2179-10-4**]  06:13 PM
                             [**2179-10-4**]  11:04 PM
                             [**2179-10-5**]  03:20 AM
                             [**2179-10-5**]  05:46 PM
                             [**2179-10-5**]  10:20 PM
   WBC
   16.7
   14.7
   8.4
   Hct
   29.7
   27.3
   23.5
   Plt
   445
   398
   321
   Cr
   2.8
   2.6
   2.0
   1.8
   1.6
   1.5
   TCO2
   25
   24
   24
   25
   Glucose
   165
   179
   117
   142
   158
   200
   Other labs: PT / PTT / INR:15.4/33.0/1.4, ALT / AST:25/45, Alk Phos / T
   Bili:99/0.4, Differential-Neuts:82.0 %, Lymph:13.6 %, Mono:2.3 %,
   Eos:2.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.6 g/dL, LDH:307 IU/L,
   Ca++:7.7 mg/dL, Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   Micro: catheter tip No growth. BCx pending.
   HD-CT: 1. Interval obliteration of the brain sulci and loss of
   [**Doctor Last Name 734**]-white matter differentiation suggests global hypoxic ischemic
   injury. 2. Interval increase in opacification of the ethmoid sinuses
   and the left maxillary sinus.
   Assessment and Plan
   70M with DM2, HTN and recent hospital stay with GAS cellulitis, septic
   shock w/ multi-organ failure, ATN, VAP and persistent respiratory
   failure now presenting 2 days following cardiac arrest at rehab and
   likely persistent vegetative state.
   #Cardiac Arrest and anoxic brain injury: unclear duration of pulseless
   arrest so was difficult to gauge likely severity of anoxic brain
   injury.  CT-Head suggests global hypoxic ischemic injury. Neurology
   assessment is as such, with no responsiveness >96hours, minimal
   brainstem reflexes, no gag,  and likely to remain in persistent
   vegetative state. Prognosis was discussed with the family and his
   status has been changed to DNR, and there is consideration of starting
   CMO which will be readdressed later this week.
   - Continue daily neuro exams, lighten sedation as appropriate to enable
   neuro exams
   - Neurology has signed off but is available for family meetings.
   - f/u final read for EEG
   #Respiratory Failure: Currently oxygenating well but at times,
   dysynchronous breathing and breathing over the vent. Given prognosis,
   will attempt to modify vent settings to improve comfort, but will not
   aggressively attempt to wean down settings.
   - trach care per procotol
   - VAP bundle
   - hold sedation as able for neuron checks as possible
   # GAS cellulitis with fasciotomies: currently w/o significant erythema
   or warmth and completed extended antibiotic course at last hospital
   stay. No evidence of infection
   - Continue VAC dressing changes
   - monitor for signs of infection
   #Hypertension: Not currently an issue, will use home dose metoprolol as
   needed.
   #Acute on Chronic renal failure: prior Cr at discharge was 1.4,
   subsequent elevation likely pre-renal +/- ischemic ATN from pulseless
   arrest. No evidence of obstruction and no peripheral eosinophilia or
   rash to suggest AIN. Creat trending down, now at 1.3.
   -hold free water in setting of possible cerebral edema
   -monitor urine output
   Nutrition: Replete with Fiber (Full) - [**2179-10-3**] 09:42 PM 30 mL/hour
   #Hypernatremia: resolved
   #Diabetes mellitus: no anion gap or severe hyperglycemia
   - TF
   - NPH with insulin sliding scale
   #Lines: PICC Line - [**2179-10-3**] 05:04 PM, peripheral line
   PPX: heparin, ranitidine, VAP ppx
   Communication: wife and son
 hopeful for family meeting [**10-5**] afternoon
   Code
 DNR decided w/ family yesterday, will continue to discuss status
   and consider CMO later this week.
   Dispo - ICU
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2179-10-5**] 10:49 PM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2179-10-3**] 05:04 PM
   18 Gauge - [**2179-10-5**] 04:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2179-10-07 06:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Lots of liquid stools overnight. Posturing at times.
   Allergies:
   Quinolones
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 31.7 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2179-10-6**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-10-7**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.2
C (99
   HR: 80 (69 - 91) bpm
   BP: 175/68(90) {105/37(52) - 175/70(90)} mmHg
   RR: 15 (0 - 30) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 76 Inch
             Total In:
                                                                  3,570 mL
                                                                    688 mL
   PO:
             TF:
                                                                  1,941 mL
                                                                    247 mL
   IVF:
                                                                  1,469 mL
                                                                    441 mL
   Blood products:
   Total out:
                                                                  2,985 mL
                                                                    970 mL
   Urine:
                                                                  2,985 mL
                                                                    770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    585 mL
                                                                   -282 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 900 (552 - 900) mL
   PS : 15 cmH2O
   RR (Spontaneous): 18
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: Vent Dependant
   PIP: 23 cmH2O
   SpO2: 100%
   ABG: 7.45/37/162/25/2
   Ve: 7 L/min
   PaO2 / FiO2: 405
   Physical Examination
   General Appearance: Overweight / Obese , nonresponsive to voice or
   noxious stimuli.
   Eyes / Conjunctiva: PERRL, 3->2mm bilat, no clear consensual response,
   no dolls eye reflex.
   Head, Ears, Nose, Throat: Normocephalic, trach in place w/o surrounding
   erythema
   Cardiovascular: RRR, s1, s2 wnl, no m/r/g
   Peripheral Vascular: DP1+bil, radial 1+ bil
   Respiratory / Chest: mild rhonchi present bilaterally, likely referred
   from airway. CTA more inferiorly.
   Abdominal: Soft, bowel sounds present, obese, G-tube in place with
   dressing C/D/I
   Extremities: Bil, upper 1+, and lower 2+ pitting edema,  with left leg
   fasciotomies and VAC dressing in place no surrounding erythema. Skin
   warm.
   Neurologic: Completely unresponsive, mildly sedated, not paralyzed. GCS
   3 (no verbal output, no eye opening, no motor response), pupils 3->2mm
   bilat, no oculcephalic reflex, no response to threat, no gag. No
   plantar response.
   Labs / Radiology
   318 K/uL
   8.6 g/dL
   179 mg/dL
   1.2 mg/dL
   25 mEq/L
   4.3 mEq/L
   41 mg/dL
   114 mEq/L
   146 mEq/L
   26.7 %
   8.8 K/uL
        [image002.jpg]
   OSMs: 322 (on manitol)
                             [**2179-10-4**]  10:58 AM
                             [**2179-10-4**]  11:04 AM
                             [**2179-10-4**]  06:13 PM
                             [**2179-10-4**]  11:04 PM
                             [**2179-10-5**]  03:20 AM
                             [**2179-10-5**]  05:46 PM
                             [**2179-10-5**]  10:20 PM
                             [**2179-10-6**]  05:14 AM
                             [**2179-10-6**]  11:26 AM
                             [**2179-10-7**]  01:22 AM
   WBC
   8.4
   8.4
   8.8
   Hct
   23.5
   26.0
   26.7
   Plt
   [**Telephone/Fax (3) 5597**]
   Cr
   2.0
   1.8
   1.6
   1.5
   1.3
   1.2
   TCO2
   24
   24
   25
   27
   Glucose
   117
   142
   158
   200
   134
   179
   Other labs: PT / PTT / INR:13.8/28.3/1.2, ALT / AST:25/45, Alk Phos / T
   Bili:99/0.4, Differential-Neuts:82.0 %, Lymph:13.6 %, Mono:2.3 %,
   Eos:2.0 %, Lactic Acid:1.0 mmol/L, Albumin:2.6 g/dL, LDH:307 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   CT HEAD (FINAL):  1. Interval obliteration of the brain sulci and loss
   of [**Doctor Last Name 734**]-white matter differentiation suggests global hypoxic ischemic
   injury.  2. Interval increase in opacification of the ethmoid sinuses
   and the left maxillary sinus.
   EEG (FINAL): Abnormal EEG due to the slow background with occasional
   suppressive bursts. These findings suggest a widespread encephalopathy
   affecting both cortical and subcortical structures. Medications,
   metabolic disturbances, and infection are among the most common causes.
   Hypoxia is another possible explanation. Nevertheless, there were no
   areas of prominent focal slowing although encephalopathies can obscure
   focal findings. There were no clearly epileptiform features.
   Assessment and Plan
   70M with DM2, HTN and recent hospital stay with GAS cellulitis, septic
   shock w/ multi-organ failure, ATN, VAP and persistent respiratory
   failure now presenting 2 days following cardiac arrest at rehab and
   likely persistent vegetative state.
   #Cardiac Arrest and anoxic brain injury: unclear duration of pulseless
   arrest so was difficult to gauge likely severity of anoxic brain
   injury.  CT-Head suggests global hypoxic ischemic injury. Neurology
   assessment is as such, with no responsiveness >96hours, minimal
   brainstem reflexes, no gag,  and likely to remain in persistent
   vegetative state. Prognosis was discussed with the family and his
   status has been changed to DNR, and there is consideration of starting
   CMO which may be discussed with the family today
   - Continue daily neuro exams, lighten sedation as appropriate to enable
   neuro exams
   - Neurology has signed off but is available for family meetings.
   - final reads of CT and EEG are consistent with global hypoxic injury.
   - getting Mannitol for possible component of cerebral edema on head CT.
   No change in nuero status since starting mannitaol. Will continue and
   follow serum Osms.
   #Respiratory Failure: Currently oxygenating well but at times,
   dysynchronous breathing and breathing over the vent. Given prognosis,
   will attempt to modify vent settings to improve comfort, but will not
   aggressively attempt to wean down settings.
   - trach care per procotol
   - VAP bundle
   - hold sedation for neuro checks as possible
   # GAS cellulitis with fasciotomies: currently w/o significant erythema
   or warmth and completed extended antibiotic course at last hospital
   stay. No evidence of infection
   - Continue VAC dressing changes
   - monitor for signs of infection
   #Hypertension: Not currently an issue, will use home dose metoprolol as
   needed.
   #Acute on Chronic renal failure: prior Cr at discharge was 1.4,
   subsequent elevation likely pre-renal +/- ischemic ATN from pulseless
   arrest. No evidence of obstruction and no peripheral eosinophilia or
   rash to suggest AIN. Creat trending down, now at 1.3.
   -hold free water in setting of possible cerebral edema
   -monitor urine output
   Nutrition: Replete with Fiber (Full) - [**2179-10-3**] 09:42 PM 30 mL/hour
   #Hypernatremia: resolved
   #Diabetes mellitus: no anion gap or severe hyperglycemia
   - TF
   - NPH with insulin sliding scale
   #Lines: PICC Line - [**2179-10-3**] 05:04 PM, peripheral line
   PPX: heparin, ranitidine, VAP ppx
   Communication: wife and son
 hopeful for family meeting [**10-5**] afternoon
   Code
 DNR decided w/ family yesterday, will continue to discuss status
   and consider CMO today.
   Dispo
 ICU
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2179-10-7**] 02:00 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2179-10-3**] 05:04 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2179-10-08 06:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Family meeting on Thursday, [**10-7**]
   Allergies:
   Quinolones
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 31.7 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2179-10-7**] 05:44 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-10-8**] 06:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.3
C (99.1
   HR: 75 (67 - 83) bpm
   BP: 158/56(77) {128/50(66) - 158/67(84)} mmHg
   RR: 18 (11 - 24) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 76 Inch
             Total In:
                                                                  2,565 mL
                                                                    615 mL
   PO:
             TF:
                                                                  1,016 mL
                                                                    226 mL
   IVF:
                                                                  1,459 mL
                                                                    329 mL
   Blood products:
   Total out:
                                                                  2,830 mL
                                                                    900 mL
   Urine:
                                                                  2,630 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -265 mL
                                                                   -285 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 493 (493 - 998) mL
   PS : 10 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 73
   RSBI Deferred: Vent Dependant
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.41/39/148/24/0
   Ve: 10.7 L/min
   PaO2 / FiO2: 370
   Physical Examination
   General Appearance: Overweight / Obese , nonresponsive to voice or
   noxious stimuli.
   Eyes / Conjunctiva: PERRL, 3->2mm bilat, no clear consensual response,
   no dolls eye reflex.
   Head, Ears, Nose, Throat: Normocephalic, trach in place w/o surrounding
   erythema
   Cardiovascular: RRR, s1, s2 wnl, no m/r/g
   Peripheral Vascular: DP1+bil, radial 1+ bil
   Respiratory / Chest: mild rhonchi present bilaterally, likely referred
   from airway. CTA more inferiorly.
   Abdominal: Soft, bowel sounds present, obese, G-tube in place with
   dressing C/D/I
   Extremities: Bil, upper 1+, and lower 2+ pitting edema,  with left leg
   fasciotomies and VAC dressing in place no surrounding erythema. Skin
   warm.
   Neurologic: Completely unresponsive, mildly sedated, not paralyzed. GCS
   3 (no verbal output, no eye opening, no motor response), pupils 3->2mm
   bilat, no oculcephalic reflex, no response to threat, no gag. No
   plantar response.
   Labs / Radiology
   318 K/uL
   8.6 g/dL
   193 mg/dL
   1.0 mg/dL
   24 mEq/L
   3.9 mEq/L
   32 mg/dL
   117 mEq/L
   149 mEq/L
   25.5 %
   8.8 K/uL
        [image002.jpg]
                             [**2179-10-4**]  11:04 PM
                             [**2179-10-5**]  03:20 AM
                             [**2179-10-5**]  05:46 PM
                             [**2179-10-5**]  10:20 PM
                             [**2179-10-6**]  05:14 AM
                             [**2179-10-6**]  11:26 AM
                             [**2179-10-7**]  01:22 AM
                             [**2179-10-7**]  07:11 PM
                             [**2179-10-8**]  01:46 AM
                             [**2179-10-8**]  04:44 AM
   WBC
   8.4
   8.4
   8.8
   Hct
   23.5
   26.0
   26.7
   25.5
   Plt
   [**Telephone/Fax (3) 5597**]
   Cr
   1.8
   1.6
   1.5
   1.3
   1.2
   1.0
   1.0
   TCO2
   25
   27
   26
   Glucose
   142
   158
   200
   134
   179
   193
   Other labs: PT / PTT / INR:13.8/28.3/1.2, ALT / AST:25/45, Alk Phos / T
   Bili:99/0.4, Differential-Neuts:82.0 %, Lymph:13.6 %, Mono:2.3 %,
   Eos:2.0 %, Lactic Acid:1.0 mmol/L, Albumin:2.6 g/dL, LDH:307 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   70M with DM2, HTN and recent hospital stay with GAS cellulitis, septic
   shock w/ multi-organ failure, ATN, VAP and persistent respiratory
   failure now presenting 2 days following cardiac arrest at rehab and
   likely persistent vegetative state.
   #Cardiac Arrest and anoxic brain injury: unclear duration of pulseless
   arrest so was difficult to gauge likely severity of anoxic brain
   injury.  CT-Head suggests global hypoxic ischemic injury. Neurology
   assessment is as such, with no responsiveness >96hours, minimal
   brainstem reflexes, no gag,  and likely to remain in persistent
   vegetative state. Prognosis was discussed with the family and his
   status has been changed to DNR, and there is consideration of starting
   CMO which may be discussed with the family today
   - Continue daily neuro exams, lighten sedation as appropriate to enable
   neuro exams
   - Neurology has signed off but is available for family meetings.
   - final reads of CT and EEG are consistent with global hypoxic injury.
   - getting Mannitol for possible component of cerebral edema on head CT.
   No change in nuero status since starting mannitaol. Will continue and
   follow serum Osms.
   #Respiratory Failure: Currently oxygenating well but at times,
   dysynchronous breathing and breathing over the vent. Given prognosis,
   will attempt to modify vent settings to improve comfort, but will not
   aggressively attempt to wean down settings.
   - trach care per procotol
   - VAP bundle
   - hold sedation for neuro checks as possible
   # GAS cellulitis with fasciotomies: currently w/o significant erythema
   or warmth and completed extended antibiotic course at last hospital
   stay. No evidence of infection
   - Continue VAC dressing changes
   - monitor for signs of infection
   #Hypertension: Not currently an issue, will use home dose metoprolol as
   needed.
   #Acute on Chronic renal failure: prior Cr at discharge was 1.4,
   subsequent elevation likely pre-renal +/- ischemic ATN from pulseless
   arrest. No evidence of obstruction and no peripheral eosinophilia or
   rash to suggest AIN. Creat trending down, now at 1.3.
   -hold free water in setting of possible cerebral edema
   -monitor urine output
   Nutrition: Replete with Fiber (Full) - [**2179-10-3**] 09:42 PM 30 mL/hour
   #Hypernatremia: resolved
   #Diabetes mellitus: no anion gap or severe hyperglycemia
   - TF
   - NPH with insulin sliding scale
   #Lines: PICC Line - [**2179-10-3**] 05:04 PM, peripheral line
   PPX: heparin, ranitidine, VAP ppx
   Communication: wife and son
 hopeful for family meeting [**10-5**] afternoon
   Code
 DNR decided w/ family yesterday, will continue to discuss status
   and consider CMO today.
   Dispo
 ICU
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2179-10-7**] 11:32 PM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2179-10-3**] 05:04 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2179-10-09 05:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   No visitors
   Allergies:
   Quinolones
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2179-10-8**] 05:53 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-10-9**] 05:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.2
C (99
   HR: 80 (73 - 94) bpm
   BP: 163/75(93) {135/55(72) - 176/83(103)} mmHg
   RR: 26 (15 - 34) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 76 Inch
             Total In:
                                                                  2,168 mL
                                                                    480 mL
   PO:
             TF:
                                                                    840 mL
                                                                    104 mL
   IVF:
                                                                  1,158 mL
                                                                    296 mL
   Blood products:
   Total out:
                                                                  2,490 mL
                                                                    400 mL
   Urine:
                                                                  2,490 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -322 mL
                                                                     80 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 456 (456 - 669) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 95
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///25/
   Ve: 9.9 L/min
   Physical Examination
   General Appearance: Overweight / Obese , nonresponsive to voice or
   noxious stimuli.
   Eyes / Conjunctiva: PERRL, 3->2mm bilat, no clear consensual response,
   no dolls eye reflex.
   Head, Ears, Nose, Throat: Normocephalic, trach in place w/o surrounding
   erythema
   Cardiovascular: RRR, s1, s2 wnl, no m/r/g
   Peripheral Vascular: DP1+bil, radial 1+ bil
   Respiratory / Chest: mild rhonchi present bilaterally, likely referred
   from airway. CTA more inferiorly.
   Abdominal: Soft, bowel sounds present, obese, G-tube in place with
   dressing C/D/I
   Extremities: Bil, upper 1+, and lower 2+ pitting edema,  with left leg
   fasciotomies and VAC dressing in place no surrounding erythema. Skin
   warm.
   Neurologic: Completely unresponsive, mildly sedated, not paralyzed. GCS
   3 (no verbal output, no eye opening, no motor response), pupils 3->2mm
   bilat, no oculcephalic reflex, no response to threat, no gag. No
   plantar response.
   Labs / Radiology
   374 K/uL
   8.9 g/dL
   141 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.0 mEq/L
   28 mg/dL
   113 mEq/L
   144 mEq/L
   25.5 %
   9.3 K/uL
        [image002.jpg]
                             [**2179-10-5**]  03:20 AM
                             [**2179-10-5**]  05:46 PM
                             [**2179-10-5**]  10:20 PM
                             [**2179-10-6**]  05:14 AM
                             [**2179-10-6**]  11:26 AM
                             [**2179-10-7**]  01:22 AM
                             [**2179-10-7**]  07:11 PM
                             [**2179-10-8**]  01:46 AM
                             [**2179-10-8**]  04:44 AM
                             [**2179-10-9**]  03:36 AM
   WBC
   8.4
   8.4
   8.8
   9.3
   Hct
   23.5
   26.0
   26.7
   25.5
   25.5
   Plt
   [**Telephone/Fax (3) 5647**]74
   Cr
   1.8
   1.6
   1.5
   1.3
   1.2
   1.0
   1.0
   0.9
   TCO2
   27
   26
   Glucose
   142
   158
   200
   134
   179
   193
   141
   Other labs: PT / PTT / INR:13.8/28.3/1.2, ALT / AST:25/45, Alk Phos / T
   Bili:99/0.4, Differential-Neuts:82.0 %, Lymph:13.6 %, Mono:2.3 %,
   Eos:2.0 %, Lactic Acid:1.0 mmol/L, Albumin:2.6 g/dL, LDH:307 IU/L,
   Ca++:8.5 mg/dL, Mg++:1.8 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   70M with DM2, HTN and recent hospital stay with GAS cellulitis, septic
   shock w/ multi-organ failure, ATN, VAP and persistent respiratory
   failure now presenting 2 days following cardiac arrest at rehab and
   likely persistent vegetative state.
   #Cardiac Arrest and anoxic brain injury: unclear duration of pulseless
   arrest so was difficult to gauge likely severity of anoxic brain
   injury.  CT-Head suggests global hypoxic ischemic injury. Neurology
   assessment is as such, with no responsiveness >96hours, minimal
   brainstem reflexes, no gag,  and likely to remain in persistent
   vegetative state. Prognosis was discussed with the family and his
   status has been changed to DNR, and there is consideration of starting
   CMO which may be discussed with the family today
   - Continue daily neuro exams, lighten sedation as appropriate to enable
   neuro exams
   - Neurology has signed off but is available for family meetings.
   - final reads of CT and EEG are consistent with global hypoxic injury.
   - getting Mannitol for possible component of cerebral edema on head CT.
   No change in nuero status since starting mannitaol. Will continue and
   follow serum Osms.
   #Respiratory Failure: Currently oxygenating well but at times,
   dysynchronous breathing and breathing over the vent. Given prognosis,
   will attempt to modify vent settings to improve comfort, but will not
   aggressively attempt to wean down settings.
   - trach care per procotol
   - VAP bundle
   - hold sedation for neuro checks as possible
   # GAS cellulitis with fasciotomies: currently w/o significant erythema
   or warmth and completed extended antibiotic course at last hospital
   stay. No evidence of infection
   - Continue VAC dressing changes
   - monitor for signs of infection
   #Hypertension: Not currently an issue, will use home dose metoprolol as
   needed.
   #Acute on Chronic renal failure: prior Cr at discharge was 1.4,
   subsequent elevation likely pre-renal +/- ischemic ATN from pulseless
   arrest. No evidence of obstruction and no peripheral eosinophilia or
   rash to suggest AIN. Creat trending down, now at 1.0.
   -hold free water in setting of possible cerebral edema
   -monitor urine output
   Nutrition: Replete with Fiber (Full) - [**2179-10-3**] 09:42 PM 30 mL/hour
   #Hypernatremia: resolved
   #Diabetes mellitus: no anion gap or severe hyperglycemia
   - TF
   - NPH with insulin sliding scale
   #Lines: PICC Line - [**2179-10-3**] 05:04 PM, peripheral line
   PPX: heparin, ranitidine, VAP ppx
   Communication: wife and son
 hopeful for family meeting [**10-5**] afternoon
   Code
 DNR decided w/ family yesterday, will continue to discuss status
   and consider CMO today.
   Dispo
 ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2179-10-3**] 05:04 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2179-10-10 07:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   No acute events.
   Allergies:
   Quinolones
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-10-10**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.5
C (99.5
   HR: 96 (83 - 102) bpm
   BP: 158/69(89) {141/62(82) - 171/91(109)} mmHg
   RR: 20 (20 - 31) insp/min
   SpO2: 99%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 76 Inch
             Total In:
                                                                  2,254 mL
                                                                    419 mL
   PO:
             TF:
                                                                  1,030 mL
                                                                    256 mL
   IVF:
                                                                  1,114 mL
                                                                    163 mL
   Blood products:
   Total out:
                                                                  2,825 mL
                                                                    700 mL
   Urine:
                                                                  2,825 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -571 mL
                                                                   -281 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 559 (401 - 559) mL
   PS : 10 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 64
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: ///25/
   Ve: 10.2 L/min
   Physical Examination
   General Appearance: Overweight / Obese , nonresponsive to voice or
   noxious stimuli, occasionally postures to stimulation
   Eyes / Conjunctiva: PERRL, 3->2mm bilat, no clear consensual response,
   + dolls eye reflex. Disconjugate gaze.
   Head, Ears, Nose, Throat: Normocephalic, trach in place w/o surrounding
   erythema
   Cardiovascular: RRR, s1, s2 wnl, no m/r/g
   Peripheral Vascular: DP1+bil, radial 1+ bil
   Respiratory / Chest: mild rhonchi present bilaterally, likely referred
   from airway. CTA more inferiorly.
   Abdominal: Soft, bowel sounds present, obese, G-tube in place with
   dressing C/D/I
   Extremities: Bil, upper 1+, and lower 2+ pitting edema,  with left leg
   fasciotomies and VAC dressing in place no surrounding erythema. Skin
   warm.
   Neurologic: Completely unresponsive, mildly sedated, not paralyzed. GCS
   3 (no verbal output, no eye opening, no motor response), pupils 3->2mm
   bilat, no oculcephalic reflex, no response to threat, no gag. No
   plantar response.
   Labs / Radiology
   372 K/uL
   8.6 g/dL
   202 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.9 mEq/L
   29 mg/dL
   116 mEq/L
   148 mEq/L
   26.1 %
   9.4 K/uL
        [image002.jpg]
                             [**2179-10-5**]  05:46 PM
                             [**2179-10-5**]  10:20 PM
                             [**2179-10-6**]  05:14 AM
                             [**2179-10-6**]  11:26 AM
                             [**2179-10-7**]  01:22 AM
                             [**2179-10-7**]  07:11 PM
                             [**2179-10-8**]  01:46 AM
                             [**2179-10-8**]  04:44 AM
                             [**2179-10-9**]  03:36 AM
                             [**2179-10-10**]  03:01 AM
   WBC
   8.4
   8.8
   9.3
   9.4
   Hct
   26.0
   26.7
   25.5
   25.5
   26.1
   Plt
   [**Telephone/Fax (3) 5669**]72
   Cr
   1.6
   1.5
   1.3
   1.2
   1.0
   1.0
   0.9
   0.9
   TCO2
   27
   26
   Glucose
   158
   200
   134
   179
   193
   141
   202
   Other labs: PT / PTT / INR:13.8/28.3/1.2, ALT / AST:25/45, Alk Phos / T
   Bili:99/0.4, Differential-Neuts:82.0 %, Lymph:13.6 %, Mono:2.3 %,
   Eos:2.0 %, Lactic Acid:1.0 mmol/L, Albumin:2.6 g/dL, LDH:307 IU/L,
   Ca++:8.6 mg/dL, Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   70M with DM2, HTN and recent hospital stay with GAS cellulitis, septic
   shock w/ multi-organ failure, ATN, VAP and persistent respiratory
   failure now presenting 2 days following cardiac arrest at rehab and
   likely persistent vegetative state.
   #Cardiac Arrest and anoxic brain injury: unclear duration of pulseless
   arrest so was difficult to gauge likely severity of anoxic brain
   injury.  CT-Head suggests global hypoxic ischemic injury. Neurology
   assessment is as such, with no responsiveness >96hours, minimal
   brainstem reflexes, no gag,  and likely to remain in persistent
   vegetative state. Prognosis was discussed with the family and his
   status has been changed to DNR, and there is consideration of starting
   CMO
   - Continue daily neuro exams, lighten sedation as appropriate to enable
   neuro exams
   - Neurology has signed off but is available for family meetings.
   - final reads of CT and EEG are consistent with global hypoxic injury.
   - continue mannitol
   #Respiratory Failure: Currently oxygenating well but at times,
   dysynchronous breathing and breathing over the vent. Given prognosis,
   will attempt to modify vent settings to improve comfort, but will not
   aggressively attempt to wean down settings.
   - trach care per procotol
   - sedation for pain, dysynchronous breathing
 changed from propofol to
   midaz and fentanyl for lipemic blood labs
   - VAP bundle
   - hold sedation for neuro checks as possible
   # GAS cellulitis with fasciotomies: currently w/o significant erythema
   or warmth and completed extended antibiotic course at last hospital
   stay. No evidence of infection
   - Continue VAC dressing changes
   - monitor for signs of infection
   #Hypertension: Not currently an issue, will use home dose metoprolol as
   needed.
   # Nutrition: Replete with Fiber (Full) - [**2179-10-3**] 09:42 PM 30 mL/hour
   #Diabetes mellitus: no anion gap or severe hyperglycemia
   - TF
   - NPH with insulin sliding scale
   #Lines: PICC Line - [**2179-10-3**] 05:04 PM, peripheral line
   # PPX: heparin, ranitidine, VAP ppx
   # Communication: wife and son
   # Code
 DNR, will continue to discuss status and consider CMO with
   family as per their wishes.
   # Dispo
 ICU
   ------ Protected Section ------
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 70M obesity, chronic respiratory failure s/p
   recent T+G in the setting of GAS cellulitis / compartment syndrome/
   sepsis, DM, HTN now admitted following arrest and hypoxic brain injury
   at rehab. Remains on mannitol and low dose propofol without any
   evidence of neurologic recovery.  Neuro eval estimates >90% chance
   persistent vegetative state.  Continues to require mech vent support as
   well as propofol
 when off myoclonic and vent dys-synchrony.
   On exam:
   Tmax: 37.7
C (99.9
   Tcurrent: 37.5
C (99.5
   HR: 96 (83 - 102) bpm
   BP: 158/69(89) {141/62(82) - 171/91(109)} mmHg
   RR: 20 (20 - 31) insp/min
   SpO2: 99%
   AP/
   No improvement in neurological status.   Chances of recovery beyond
   vegetative state are very low (~10% per neuro) given pt is >5days from
   arrest/hypoxemic injury with unknown pulseless period and has not shown
   signs of improved neuro status.  CT-Head suggests global hypoxic
   ischemic injury.   Presence of myoclonus also c/w poor outcome.  No
   meaningful improvement in neuron exam since presentation.  Family is
   aware of prognosis and is discussing CMO status.  Pt presently DNI.
   For now cont manitol, propofol, mech vent pending decision.
   Code: DNR
   ------ Protected Section Addendum Entered By:[**Name (NI) 391**] [**Last Name (NamePattern1) 509**], MD
   on:[**2179-10-10**] 05:13 PM ------

2179-10-11 06:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.4
F - [**2179-10-10**] 06:00 PM. MD not notified overnight.
   Afebrile now.
   Dr. [**Last Name (STitle) 1877**] had family meeting today with plan to change code status
   to CMO tomorrow afternoon once family has arrived.
   Allergies:
   Quinolones
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 150 mcg/hour
   Mannitol - 0.2 grams/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-10-11**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.6
C (99.6
   HR: 88 (88 - 110) bpm
   BP: 152/72(90) {142/61(79) - 175/89(109)} mmHg
   RR: 16 (16 - 28) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 76 Inch
             Total In:
                                                                  1,794 mL
                                                                    485 mL
   PO:
             TF:
                                                                    840 mL
                                                                    228 mL
   IVF:
                                                                    794 mL
                                                                    198 mL
   Blood products:
   Total out:
                                                                  2,660 mL
                                                                    620 mL
   Urine:
                                                                  2,660 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -866 mL
                                                                   -135 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 434 (434 - 529) mL
   PS : 10 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 74
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: ////
   Ve: 5 L/min
   Physical Examination
   General Appearance: Overweight / Obese , nonresponsive to voice or
   noxious stimuli, occasionally postures to stimulation
   Eyes / Conjunctiva: PERRL, 3->2mm bilat, no clear consensual response,
   + dolls eye reflex. Disconjugate gaze.
   Head, Ears, Nose, Throat: Normocephalic, trach in place w/o surrounding
   erythema
   Cardiovascular: RRR, s1, s2 wnl, no m/r/g. Distant heart sounds.
   Peripheral Vascular: DP1+bil, radial 1+ bil
   Respiratory / Chest: mild rhonchi present bilaterally.
   Abdominal: Soft, bowel sounds present, obese, G-tube in place with
   dressing C/D/I
   Extremities: Bil, upper 1+, and lower 2+ pitting edema,  with left leg
   fasciotomies and VAC dressing in place no surrounding erythema. Skin
   warm.
   Neurologic: Completely unresponsive, mildly sedated, not paralyzed. GCS
   3 (no verbal output, no eye opening, no motor response), pupils 3->2mm
   bilat, no oculcephalic reflex, no response to threat.
   Labs / Radiology
   380 K/uL
   8.8 g/dL
   202 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.9 mEq/L
   29 mg/dL
   116 mEq/L
   150 mEq/L
   26.8 %
   9.7 K/uL
        [image002.jpg]
                             [**2179-10-5**]  10:20 PM
                             [**2179-10-6**]  05:14 AM
                             [**2179-10-6**]  11:26 AM
                             [**2179-10-7**]  01:22 AM
                             [**2179-10-7**]  07:11 PM
                             [**2179-10-8**]  01:46 AM
                             [**2179-10-8**]  04:44 AM
                             [**2179-10-9**]  03:36 AM
                             [**2179-10-10**]  03:01 AM
                             [**2179-10-11**]  04:41 AM
   WBC
   8.4
   8.8
   9.3
   9.4
   9.7
   Hct
   26.0
   26.7
   25.5
   25.5
   26.1
   26.8
   Plt
   [**Telephone/Fax (3) 5669**]72
   380
   Cr
   1.5
   1.3
   1.2
   1.0
   1.0
   0.9
   0.9
   TCO2
   27
   26
   Glucose
   200
   134
   179
   193
   141
   202
   Other labs: PT / PTT / INR:13.8/28.3/1.2, ALT / AST:25/45, Alk Phos / T
   Bili:99/0.4, Differential-Neuts:82.0 %, Lymph:13.6 %, Mono:2.3 %,
   Eos:2.0 %, Lactic Acid:1.0 mmol/L, Albumin:2.6 g/dL, LDH:307 IU/L,
   Ca++:8.6 mg/dL, Mg++:1.7 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   70M with DM2, HTN and recent hospital stay with GAS cellulitis, septic
   shock w/ multi-organ failure, ATN, VAP and persistent respiratory
   failure now presenting following cardiac arrest at rehab and likely
   persistent vegetative state.
   #Cardiac Arrest and anoxic brain injury: unclear duration of pulseless
   arrest so was difficult to gauge likely severity of anoxic brain
   injury.  CT-Head suggests global hypoxic ischemic injury. Neurology
   assessment is as such, with no responsiveness >96hours, minimal
   brainstem reflexes, no gag, and likely to remain in persistent
   vegetative state. Prognosis was discussed with the family and his
   status has been changed to DNR, and there is consideration of starting
   CMO, likely tomorrow
   - Continue daily neuro exams, lighten sedation as appropriate to enable
   neuro exams
   - Neurology has signed off but is available for family meetings.
   - final reads of CT and EEG are consistent with global hypoxic injury.
   - continue mannitol drip with goal Na 150, follow serum osms
   #Respiratory Failure: Currently oxygenating well but at times,
   dysynchronous breathing and breathing over the vent. Given prognosis,
   will attempt to modify vent settings to improve comfort, but will not
   aggressively attempt to wean down settings. On [**10-11**], occasionally
   breathing at low RR, will follow, consider AC if necessary overnight
   and inadequately ventilating.
   - trach care per procotol
   - sedation for pain, dysynchronous breathing
 changed from propofol to
   midaz and fentanyl for lipemic blood labs, now on Morphine, weaning off
   Fentanyl
   - VAP bundle
   - hold sedation for neuro checks as possible
   # GAS cellulitis with fasciotomies: currently w/o significant erythema
   or warmth and completed extended antibiotic course at last hospital
   stay. No evidence of infection
   - Continue VAC dressing changes
   - monitor for signs of infection
   #Hypertension: Not currently an issue, will use home dose metoprolol as
   needed.
   # Nutrition: Nutren Renal with 45 g beneprotein at 50/hour
   #Diabetes mellitus: no anion gap or severe hyperglycemia
   - TF
   - NPH with insulin sliding scale
   #Lines: PICC Line - [**2179-10-3**] 05:04 PM, peripheral line
   # PPX: heparin, ranitidine, VAP ppx
   # Communication: wife and son
   # Code
 DNR, per family discussion will likely change status to CMO
   [**10-12**] afternoon (around 3pm) as per their wishes.
   # Dispo
 ICU
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2179-10-11**] 03:23 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2179-10-3**] 05:04 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2179-10-11 12:37:00 Physician Attending Progress Note
Chief Complaint: neurologic injury s/p stroke
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 101.4
F - [**2179-10-10**] 06:00 PM
   Allergies:
   Quinolones
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 100 mcg/hour
   Morphine Sulfate - 5 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2179-10-11**] 08:00 AM
   Other medications:
   sc heparin, lopressor, [**Last Name (LF) **], [**First Name3 (LF) 369**], SSRI, NPH, Mannitol q6,
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2179-10-11**] 12:37 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.2
C (99
   HR: 82 (82 - 110) bpm
   BP: 143/65(82) {142/61(79) - 175/89(109)} mmHg
   RR: 17 (16 - 28) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 76 Inch
             Total In:
                                                                  1,794 mL
                                                                    960 mL
   PO:
             TF:
                                                                    840 mL
                                                                    438 mL
   IVF:
                                                                    794 mL
                                                                    462 mL
   Blood products:
   Total out:
                                                                  2,660 mL
                                                                    620 mL
   Urine:
                                                                  2,660 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -866 mL
                                                                    340 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 519 (434 - 519) mL
   PS : 10 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 74
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: ////
   Ve: 9.1 L/min
   Physical Examination
   Gen: lying in bed, intubated and sedated
   CV: RR
   Chest: fair air movement no wheezes
   Abd distended + BS
   Ext: vac dressing on LLL CDI
   Neuro: no spontaneous movement, no withdrawl to pain
   Labs / Radiology
   8.8 g/dL
   380 K/uL
   202 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.9 mEq/L
   29 mg/dL
   116 mEq/L
   150 mEq/L
   26.8 %
   9.7 K/uL
        [image002.jpg]
                             [**2179-10-5**]  10:20 PM
                             [**2179-10-6**]  05:14 AM
                             [**2179-10-6**]  11:26 AM
                             [**2179-10-7**]  01:22 AM
                             [**2179-10-7**]  07:11 PM
                             [**2179-10-8**]  01:46 AM
                             [**2179-10-8**]  04:44 AM
                             [**2179-10-9**]  03:36 AM
                             [**2179-10-10**]  03:01 AM
                             [**2179-10-11**]  04:41 AM
   WBC
   8.4
   8.8
   9.3
   9.4
   9.7
   Hct
   26.0
   26.7
   25.5
   25.5
   26.1
   26.8
   Plt
   [**Telephone/Fax (3) 5669**]72
   380
   Cr
   1.5
   1.3
   1.2
   1.0
   1.0
   0.9
   0.9
   TCO2
   27
   26
   Glucose
   200
   134
   179
   193
   141
   202
   Other labs: PT / PTT / INR:13.8/28.3/1.2, ALT / AST:25/45, Alk Phos / T
   Bili:99/0.4, Differential-Neuts:82.0 %, Lymph:13.6 %, Mono:2.3 %,
   Eos:2.0 %, Lactic Acid:1.0 mmol/L, Albumin:2.6 g/dL, LDH:307 IU/L,
   Ca++:8.6 mg/dL, Mg++:1.7 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   70 yr old man s/p long ICU course for fascitis, resp failure s.p trcha
   and PGE who arrested at rehab and now had severe anoxic injury and high
   risk for persistent vegetative state
   1.       Anoxic Brain Injury: remains unresponsive, poor prognosis
   2.       Resp Failure: still on trach mask, [**10-17**], rate low, nbut no
   apneas
   3.       Fevers: possible aspiration, infected lines. Family moving
   towards CMO so have not cultured or started ABX at this point.
   ICU Care
   Nutrition: Nutren Renal (Full) - [**2179-10-11**] 03:23 AM 35 mL/hour
   Glycemic Control:  SSRI
   Lines:
   PICC Line - [**2179-10-3**] 05:04 PM
   Communication:  Met with wife for 30 minutes this afternoon and she is
   moving towards CMO in AM once rest of family has had time to visit. All
   questions answered.
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45

2179-10-12 05:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Pt noted by nurse to have pink, blood tinged sputum from trach
   suctioning after turning.
   Family meeting planned for today with possible change in code status to
   CMO
   Allergies:
   Quinolones
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Morphine Sulfate - 5 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2179-10-11**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-10-12**] 05:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.3
C (99.1
   HR: 86 (82 - 115) bpm
   BP: 124/50(66) {119/49(66) - 157/74(93)} mmHg
   RR: 8 (7 - 23) insp/min
   SpO2: 97%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 76 Inch
             Total In:
                                                                  1,611 mL
                                                                    285 mL
   PO:
             TF:
                                                                    840 mL
                                                                    200 mL
   IVF:
                                                                    711 mL
                                                                     86 mL
   Blood products:
   Total out:
                                                                  2,000 mL
                                                                    730 mL
   Urine:
                                                                  2,000 mL
                                                                    730 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -389 mL
                                                                   -445 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 705 (519 - 1,301) mL
   PS : 10 cmH2O
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 37
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: ////
   Ve: 4.7 L/min
   Physical Examination
   General Appearance: Overweight / Obese , nonresponsive to voice or
   noxious stimuli
   Eyes / Conjunctiva: PERRL, 3->2mm bilat, no clear consensual response
   Head, Ears, Nose, Throat: Normocephalic, trach in place w/o surrounding
   erythema
   Cardiovascular: RRR, s1, s2 wnl, no m/r/g. Distant heart sounds.
   Peripheral Vascular: DP1+bil, radial 1+ bil
   Respiratory / Chest: mild rhonchi present bilaterally, decreased air
   movement on L side, pt positioned bent to left, no rales, no wheezing
   Abdominal: Soft, bowel sounds present, obese, G-tube in place with
   dressing C/D/I
   Extremities: Bil, upper 1+, and lower 2+ pitting edema,  with left leg
   fasciotomies and VAC dressing in place, mild erythema on L leg opposite
   from , not adjacent to wound edges. Skin warm.
   Neurologic: Completely unresponsive, mildly sedated, not paralyzed. GCS
   3 (no verbal output, no eye opening, no motor response), pupils 3->2mm
   bilat, no oculcephalic reflex, no response to threat.
   Labs / Radiology
   312 K/uL
   8.6 g/dL
   202 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.9 mEq/L
   29 mg/dL
   116 mEq/L
   151 mEq/L
   26.9 %
   9.5 K/uL
        [image002.jpg]
                             [**2179-10-6**]  05:14 AM
                             [**2179-10-6**]  11:26 AM
                             [**2179-10-7**]  01:22 AM
                             [**2179-10-7**]  07:11 PM
                             [**2179-10-8**]  01:46 AM
                             [**2179-10-8**]  04:44 AM
                             [**2179-10-9**]  03:36 AM
                             [**2179-10-10**]  03:01 AM
                             [**2179-10-11**]  04:41 AM
                             [**2179-10-12**]  03:22 AM
   WBC
   8.4
   8.8
   9.3
   9.4
   9.7
   9.5
   Hct
   26.0
   26.7
   25.5
   25.5
   26.1
   26.8
   26.9
   Plt
   [**Telephone/Fax (3) 5669**]72
   380
   312
   Cr
   1.3
   1.2
   1.0
   1.0
   0.9
   0.9
   TCO2
   27
   26
   Glucose
   134
   179
   193
   141
   202
   Other labs: PT / PTT / INR:13.8/28.3/1.2, ALT / AST:25/45, Alk Phos / T
   Bili:99/0.4, Differential-Neuts:82.0 %, Lymph:13.6 %, Mono:2.3 %,
   Eos:2.0 %, Lactic Acid:1.0 mmol/L, Albumin:2.6 g/dL, LDH:307 IU/L,
   Ca++:8.6 mg/dL, Mg++:1.7 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   70M with DM2, HTN and recent hospital stay with GAS cellulitis, septic
   shock w/ multi-organ failure, ATN, VAP and persistent respiratory
   failure now presenting following cardiac arrest at rehab and likely
   persistent vegetative state.
   #Cardiac Arrest and anoxic brain injury: unclear duration of pulseless
   arrest so was difficult to gauge likely severity of anoxic brain
   injury.  CT-Head suggests global hypoxic ischemic injury. Neurology
   assessment is as such, with no responsiveness >96hours, minimal
   brainstem reflexes, no gag, and likely to remain in persistent
   vegetative state. Prognosis was discussed with the family and his
   status has been changed to DNR, and there is consideration of starting
   CMO, likely tomorrow
   - Continue daily neuro exams, lighten sedation as appropriate to enable
   neuro exams
   - Neurology has signed off but is available for family meetings.
   - final reads of CT and EEG are consistent with global hypoxic injury.
   - continue mannitol drip with goal Na 150, follow serum osms
   #Respiratory Failure: Currently oxygenating well but at times,
   dysynchronous breathing and breathing over the vent. Given prognosis,
   will attempt to modify vent settings to improve comfort, but will not
   aggressively attempt to wean down settings. On [**10-11**], occasionally
   breathing at low RR, will follow, consider AC if necessary overnight
   and inadequately ventilating.
   - trach care per procotol
   - sedation for pain, dysynchronous breathing
 changed from propofol to
   midaz and fentanyl for lipemic blood labs, now on Morphine alone.
   - VAP bundle
   # GAS cellulitis with fasciotomies: currently w/o significant erythema
   or warmth and completed extended antibiotic course at last hospital
   stay. No evidence of infection
   - Continue VAC dressing changes
   - monitor for signs of infection
   - small amount of erythema on leg today, will follow, treatment pending
   CMO status to be determined today.
   #Hypertension: Not currently an issue, will use home dose metoprolol as
   needed.
   # Nutrition: Nutren Renal with 45 g beneprotein at 50/hour
   #Diabetes mellitus: no anion gap or severe hyperglycemia
   - TF
   - NPH with insulin sliding scale
   #Lines: PICC Line - [**2179-10-3**] 05:04 PM, peripheral line
   # PPX: heparin, ranitidine, VAP ppx
   # Communication: wife and son
   # Code
 DNR, per family discussion will likely change status to CMO
   [**10-12**] afternoon (around 3pm) as per their wishes.
   # Dispo
 ICU
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2179-10-11**] 03:23 AM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2179-10-3**] 05:04 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:
   ------ Protected Section ------
   MICU Attending Addendum
   70 yr odl man s/p cardiac arrest with anoxic brain injury  with very
   poor mental status and prognosis likely persistant vegetative state.
   Pt seen and examined with Housestaff.
   Tm 99.8 140/80 80 13 99% on PSV 10/5 40%
   Resting comfortably, NAD
   Chest: occ
   No labs
   No imaging
   A/P
   Met with wife and son, after [**Name2 (NI) 5720**] with proest they feel this
   afternoon is time to extubate.
   Placed on trach mask, Morphine drip initiated with good effect and
   resting comfortably. O2 sats declining. Will monitor hemodynamics.
   40 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 1876**] [**Last Name (NamePattern1) 1877**], MD
   on:[**2179-10-12**] 17:24 ------